US08106047B2
T5. [3-(4-Methoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-[3-(2-methyl-2H-tetrazol-5-yl)-phenyl]-amine
To a suspension of [3-(4-methoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-[3-(2H-tetrazol-5-yl)-phenyl]-amine (compound T3) (111 mg, 0.25 mmol) in a mixture of DMF/acetone 1:1 (8 mL) are added methyl iodide (79 μg, 1.25 mmol) and K2CO3 (53 mg, 0.37 mmol). The mixture is stirred at room temperature over night. The reaction mixture is concentrated and water is added. The resulting precipitate is filtered and washed with methanol to yield 23 mg of the title compound as white powder.

reactant | [3-(4-methoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-[3-(2H-tetrazol-5-yl)-phenyl]-amine | 0.25 mmol, 111 mg | COC1=CC=C(C=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)NC2=CC(=CC=C2)C=2N=NNN2 | C23H17N9O
reactant | methyl iodide | 1.25 mmol, 79 μg | CI | CH3I
reactant | K2CO3 | 0.37 mmol, 53 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF acetone | 8 mL | CN(C)C=O.CC(=O)C
product | [3-(4-Methoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-[3-(2-methyl-2H-tetrazol-5-yl)-phenyl]-amine | 23 mg | COC1=CC=C(C=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)NC2=CC(=CC=C2)C=2N=NN(N2)C | C24H19N9O
